US05409936
To a solution of ethyl 2-n-propyl-5-acetyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (50.0 g) in methanol (500 ml) is added 4N aqueous sodium hydroxide solution (50 ml) under ice-cooling. The mixture is stirred overnight at room temperature, then evaporated. The residue is recrystallized from ethanol to give 2-n-propyl-5-acetyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid disodium salt (44.3 g).

reactant | ethyl 2-n-propyl-5-acetyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 50.0 g | C(CC)C1=NC2=C(C(N(CC2)C(C)=O)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C28H31N7O3
reactant | sodium hydroxide | 4N, 50 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
product | 2-n-propyl-5-acetyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylic acid disodium salt | 44.3 g | [Na+].[Na+].C(CC)C1=NC2=C(C(N(CC2)C(C)=O)C(=O)[O-])N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1.C(CC)C1=NC2=C(C(N(CC2)C(C)=O)C(=O)[O-])N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | InChI=1S/2C26H27N7O3.2Na/c2*1-3-6-22-27-21-13-14-32(16(2)34)24(26(35)36)23(21)33(22)15-17-9-11-18(12-10-17)19-7-4-5-8-20(19)25-28-30-31-29-25;;/h2*4-5,7-12,24H,3,6,13-15H2,1-2H3,(H,35,36)(H,28,29,30,31);;/q;;2*+1/p-2
